US04725602
Following the procedure of Example 15 and substituting an equivalent quantity of 1-(3-methoxyphenyl)-1-octen-3-one for 4-(3-methoxyphenyl)-3-buten-2-one there was obtained as the product 1-(3-methoxyphenyl)octan-3-one as a colorless oil.

reactant | 1-(3-methoxyphenyl)-1-octen-3-one | COC=1C=C(C=CC1)C=CC(CCCCC)=O | C15H20O2
reactant | 4-(3-methoxyphenyl)-3-buten-2-one | COC=1C=C(C=CC1)C=CC(C)=O | C11H12O2
product | 1-(3-methoxyphenyl)octan-3-one | COC=1C=C(C=CC1)CCC(CCCCC)=O | C15H22O2
